US04789755
Sixty five g (0.306 mole) of neat phenyl p-toluate were maintained in the temperature range of 280°-310° C. (boiling point) while a slow stream of nitrogen was bubbled in from below the surface (sparged). Sulfur (1.92 g, 0.060 mole) dissolved in more phenyl p-toluate (20 g, 0.099 mole) at 100° C. was added slowly with stirring over a period of 2-3 hours. The heating, stirring and nitrogen sparging were continued an additional four hours and then the mixture was allowed to cool near 80° C. and 100 mL of boiling acetone was added. The suspension was transferred to a larger flask and an additional 400 mL of acetone was added. The suspension was filtered at the boil to yield 3.8 g of diphenyl 4,4'-stilbenedicarboxylate.

reactant | phenyl p-toluate | 0.306 mole | C1(=CC=C(C=C1)C(=O)OC1=CC=CC=C1)C | C14H12O2
reactant | Sulfur | 0.060 mole, 1.92 g | [S] | S
reactant | phenyl p-toluate | 0.099 mole, 20 g | C1(=CC=C(C=C1)C(=O)OC1=CC=CC=C1)C | C14H12O2
solvent | acetone | 400 mL | CC(=O)C | C3H6O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | diphenyl 4,4'-stilbenedicarboxylate | 3.8 g | C1(=CC=C(C=C1)C(=O)OC1=CC=CC=C1)C=CC1=CC=C(C=C1)C(=O)OC1=CC=CC=C1 | C28H20O4
